US08754100B2
Synthesis of ethyl 5-(N′-tert-butoxycarbonylhydrazino)-5-(3-trifluoromethylphenyl)pentanoate
Ethyl 5-oxo-5-(3-trifluoromethylphenyl)pentanoate (CAS No. 898777-75-8, 330 mg) and tert-butyl carbazate (227 mg) were dissolved in a mixed solvent of THF (6 mL) and acetic acid (3 mL). After stirring at room temperature for 25 minutes, sodium cyanoborohydride (108 mg) was added. After further one hour and 30 minutes, sodium cyanoborohydride (108 mg) was added and the mixture was stirred at room temperature for one hour. A saturated sodium bicarbonate solution and diethyl ether were added to the reaction solution, and the organic layer was separated. The resulting organic layer was washed with a saturated sodium bicarbonate solution and then dried over anhydrous sodium sulfate. The drying agent was separated by filtration and then the organic layer was concentrated under reduced pressure. The residue was purified by silica gel column chromatography to obtain the title compound (324 mg). The property values of the compound are as follows.

reactant | Ethyl 5-oxo-5-(3-trifluoromethylphenyl)pentanoate | O=C(CCCC(=O)OCC)C1=CC(=CC=C1)C(F)(F)F | C14H15F3O3
reactant | tert-butyl carbazate | 227 mg | C(NN)(=O)OC(C)(C)C | C5H12N2O2
reactant | sodium cyanoborohydride | 108 mg | C(#N)[BH3-].[Na+]
reactant | sodium cyanoborohydride | 108 mg | C(#N)[BH3-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | acetic acid | 3 mL | C(C)(=O)O | C2H4O2
solvent | diethyl ether | C(C)OCC | C4H10O
product | ethyl 5-(N′-tert-butoxycarbonylhydrazino)-5-(3-trifluoromethylphenyl)pentanoate | 324 mg | C(C)(C)(C)OC(=O)NNC(CCCC(=O)OCC)C1=CC(=CC=C1)C(F)(F)F | C19H27F3N2O4
